US06884868B1
A mixture of 4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine trihydrochloride salt (1.77 g) and 1N-sodium hydroxide (62 ml) in dichloromethane (62 ml) was stirred for 30 minutes at ambient temperature. The organic layer was separated, washed with brine, dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine (1.19 g).

reactant | 4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine trihydrochloride salt | 1.77 g | Cl.Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)N1CCNCC1
reactant | sodium hydroxide | 62 ml | [OH-].[Na+]
solvent | dichloromethane | 62 ml | ClCCl | CH2Cl2
product | 1-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine | 1.19 g | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)N1CCNCC1 | C21H27N3
